US08536197B2
(100a) Methyl 3-[(7-nitro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)methyl]benzoate
The same operation as in Example (90a) was performed using 7-nitro-2,3-dihydro-4H-1,4-benzoxazine (described in Higuchi, Robert I.; Arienti, Kristen L.; Lopez, Francisco J.; Mani, Neelakhanda S.; Mais, Dale E.; Caferro, Thomas R.; Long, Yun Oliver; Jones, Todd K.; Edwards, James P.; Zhi, Lin; Schrader, William T.; et al.; J. Med. Chem.; 50; 10; 2007; 2486-2496, 0.6 g, 3.3 mmol), sodium hydride (55% content, 145 mg, 3.3 mmol), methyl 3-bromomethylbenzoate (0.76 g, 3.3 mmol) and DMF (50 mL). Purification by silica gel column chromatography (elution solvent: hexane/ethyl acetate=1/1) gave 1.11 g of the title compound as a deep yellow solid (100%).

reactant | 7-nitro-2,3-dihydro-4H-1,4-benzoxazine | 3.3 mmol, 0.6 g | [N+](=O)([O-])C1=CC2=C(NCCO2)C=C1 | C8H8N2O3
reactant | sodium hydride | 3.3 mmol, 145 mg | [H-].[Na+]
reactant | methyl 3-bromomethylbenzoate | 3.3 mmol, 0.76 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[(7-nitro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)methyl]benzoate | 1.11 g, 100% | [N+](=O)([O-])C1=CC2=C(N(CCO2)CC=2C=C(C(=O)OC)C=CC2)C=C1 | C17H16N2O5
